US06218404B1
Preparation of 4-(4-Hydroxypiperidinyl)butyrophenone
A mixture of 4-hydroxypiperidine (550 mg, 5.4 mmol), 4-chlorobutyrophenone (490 mg, 2.7 mmol), NaI (160 mg), K2CO3 (760 mg) and toluene (25 mL) was refluxed for 24 h, cooled to rt, filtered and washed with hexane (2×10 mL). The filtrate was evaporated, and the residue was chromatographed over silica gel (EtOAc-EtOH-NH4OH, 60:40:2) to give 21 mg (3%) of the free base as a yellow powder, mp 101-2° C. 1H NMR (CDCl3-D2O): 1.50-1.57 (m, 2H), 1.83-1.98 (m, 3H), 2.08-2.17 (m, 3H), 2.397 (t, 2H, J=7), 2.73-2.78 (m, 2H), 3.00 (t, 2H, J=7), 3.60-3.70 (m, 1H), 7.43-7.56 (m, 3H), 7.96-7.98 (m, 2H). Analysis, Calcd for C15H21NO2: C, 72.84, H, 8.56, N, 5.66; Found: C, 72.31, H, 8.45, N, 5.32.

reactant | 4-hydroxypiperidine | 5.4 mmol, 550 mg | OC1CCNCC1 | C5H11NO
reactant | 4-chlorobutyrophenone | 2.7 mmol, 490 mg | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | NaI | 160 mg | [Na+].[I-]
reactant | K2CO3 | 760 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Hydroxypiperidinyl)butyrophenone | 21 mg, 3% | OC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C15H21NO2
